US09428528B2
Step 3 2,2-Difluoro-N-{(1S,2R)-1-fluoromethyl-2-hydroxy-2-[4-(6-pyrrolidin-2-yl-pyridin-3-yl)-phenyl]ethyl}-acetamide
To a stirred solution of 2-(5-{4-[(4S,5R)-3-(2,2-Difluoro-acetyl)-4-fluoromethyl-2,2-dimethyl-oxazolidin-5-yl]-phenyl}-pyridin-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester (500 mg, 0.94 mmol) and CH2Cl2 (20 mL), cooled to 0° C., is added trifluoroacetic acid (3 mL) and water (100 ul). The reaction is allowed to warm to ambient temperature, and is stirred for a further 2 hours. Toluene (20 mL) is added and the reaction mixture concentrated under vacuum to give the crude product. Purification by preparative HPLC gave the title compound (217 mg): 1H NMR (400 MHz, CDCl3), 1.88-2.06 (m, 3H), 2.38-2.48 (m, 1H), 3.22-3.40 (m, 3H), 4.25-4.37 (m, 1.5H), 4.4-4.47 (m, 0.5H), 4.52-4.59 (m, 0.5H), 4.63-4.70 (m, 0.5H), 4.71-4.78 (m, 1H), 4.86-4.94 (m, 1H), 5.89-6.01 (m, 1H), 6.20 (t, 1H), 7.43-7.53 (m, 2H), 7.58-7.63 (1H, m), 7.71-7.77 (m, 2H), 8.15-8.24 (m, 1H), 8.82-8.88 (m, 1H), 8.9-8.94 (m, 1H). m/z M+H 394.

reactant | 2-(5-{4-[(4S,5R)-3-(2,2-Difluoro-acetyl)-4-fluoromethyl-2,2-dimethyl-oxazolidin-5-yl]-phenyl}-pyridin-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.94 mmol, 500 mg | C(C)(C)(C)OC(=O)N1C(CCC1)C1=NC=C(C=C1)C1=CC=C(C=C1)[C@@H]1[C@H](N(C(O1)(C)C)C(C(F)F)=O)CF | C28H34F3N3O4
reactant | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
reactant | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | water | 100 ul | O | H2O
solvent | Toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 2,2-Difluoro-N-{(1S,2R)-1-fluoromethyl-2-hydroxy-2-[4-(6-pyrrolidin-2-yl-pyridin-3-yl)-phenyl]ethyl}-acetamide | 217 mg | FC(C(=O)N[C@@H]([C@@H](C1=CC=C(C=C1)C=1C=NC(=CC1)C1NCCC1)O)CF)F | C20H22F3N3O2
